US04075346
A mixture of 9.4 g of γ-bromo-4-fluoro-2-nitrobutyrophenone, 7.1 g of 4-hydroxy-4-(3-trifluoromethylphenyl)piperidine, 4.0 of potassium carbonate, a catalytic amount of potassium iodide and 60 ml of toluene was stirred at room temperature for 10 hours. The resulting mixture was diluted with water and extracted with toluene-ethyl acetate (1:1), and the organic layer was extracted with cold 30% hydrochloric acid. The hydrochloric acid layer was washed with toluene, made alkaline with 20% aqueous sodium hydroxide solution under cooling and extracted with ethyl acetate. The extracts were washed with water, dried over anhydrous sodium sulfate and concentrated to yield 6.4 g of γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidino]-4-fluoro-2-nitrobutyrophenone as a residual oil, which was converted into its hydrochloride by a conventional manner. M.P. 200°-209° C.

reactant | γ-bromo-4-fluoro-2-nitrobutyrophenone | 9.4 g | BrC(CC(C(=O)C1=CC=CC=C1)[N+](=O)[O-])F | C10H9BrFNO3
reactant | 4-hydroxy-4-(3-trifluoromethylphenyl)piperidine | 7.1 g | OC1(CCNCC1)C1=CC(=CC=C1)C(F)(F)F | C12H14F3NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidino]-4-fluoro-2-nitrobutyrophenone | 6.4 g | OC1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)[N+](=O)[O-])F)C1=CC(=CC=C1)C(F)(F)F | C22H22F4N2O4
